US05599811
Methyl 2-benzo[1,3]dioxol-5-ylmethyl-1,1-dioxo-4-(3,4,5-trimethoxyphenyl)-1,2-dihydro-1λ6 -benzo[e][1,2]thiazine-3-carboxylate
2-Benzo[1,3]dioxol-5-ylmethyl-1,1-dioxo-4-(trifluoromethanesulfonyloxy)-1,2-dihydro-1λ6 -benzo[e][1,2]thiazine-3-carboxylic acid methyl ester was taken up in toluene/DMF (10 mL/2 mL) and treated with (3,4,5-trimethoxy)phenylboronic acid (0.35 g, 1.65 mmol), potassium carbonate (0.23 g, 1.67 mmol), and Pd° (PPh3)4 (0.19 g, 0.16 mmol). The reaction mixture was heated to reflux for 2 hours, cooled to room temperature, diluted with ethyl acetate, washed with sat. aq. NaHCO3, brine, dried over magnesium sulfate, and the solvent evaporated. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate 1:1. The resulting oil was treated with diethyl ether, the precipitated solid collected, and dried to give the product as an off-white solid;

reactant | 2-Benzo[1,3]dioxol-5-ylmethyl-1,1-dioxo-4-(trifluoromethanesulfonyloxy)-1,2-dihydro-1λ6 -benzo[e][1,2]thiazine-3-carboxylic acid methyl ester | COC(=O)C=1N(S(C2=C(C1OS(=O)(=O)C(F)(F)F)C=CC=C2)(=O)=O)CC2=CC1=C(OCO1)C=C2 | C19H14F3NO9S2
reactant | (3,4,5-trimethoxy)phenylboronic acid | 1.65 mmol, 0.35 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | potassium carbonate | 1.67 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene DMF | 10 mL | C1(=CC=CC=C1)C.CN(C)C=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd | [Pd] | Pd
product | Methyl 2-benzo[1,3]dioxol-5-ylmethyl-1,1-dioxo-4-(3,4,5-trimethoxyphenyl)-1,2-dihydro-1λ6 -benzo[e][1,2]thiazine-3-carboxylate | O1COC2=C1C=CC(=C2)CN2S(C1=C(C(=C2C(=O)OC)C2=CC(=C(C(=C2)OC)OC)OC)C=CC=C1)(=O)=O | C27H25NO9S
